US04742057
To a solution of 3-(1-acetyl-4-piperidyl)-1acetylindoline (0.3 g) in conc. sulfuric acid (5 ml) was added potassium nitrate (0.12 g) in small portions at a temperature not exceeding 10° C. with stirring. The mixture was stirred at the same temperature for 1 hour and at ambient temperature for 7 hours. The reaction mixture was poured into ice and allowed to stand at ambient temperature for 3 days. The aqueous solution was neutralized with 2N aqueous sodium hydroxide solution and extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. The solvent was distilled off and the residue was subjected to column chromatography on silica gel, followed by elution with a mixture of chloroform and methanol to give 3-(1-acetyl-4-piperidyl)-5-nitroindoline (0.12 g).

reactant | 3-(1-acetyl-4-piperidyl)-1acetylindoline | 0.3 g | C(C)(=O)N1CCC(CC1)C1CN(C2=CC=CC=C12)C(C)=O | C17H22N2O2
reactant | potassium nitrate | 0.12 g | [N+](=O)([O-])[O-].[K+]
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
product | 3-(1-acetyl-4-piperidyl)-5-nitroindoline | 0.12 g | C(C)(=O)N1CCC(CC1)C1CNC2=CC=C(C=C12)[N+](=O)[O-] | C15H19N3O3
